US07432289B2
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl4-carboxamide (75 mg, 0.27 mmol), 6-(4fluorophenyl)pyrazine-2-carboxylic acid (58.4 mg, 0.27 mmol), HATU (101.5 mg, 0.27 mmol), HOBT (36 mg, 0.27 mmol) and DIPEA (140 μl, 0.80 mmol) in DMF (3 ml) were stirred at room temperature for 18 h. The reaction was diluted with ethyl acetate (150 ml), washed with hydrochloric acid (0.5M, 2×20ml), aqueous sodium hydrogen carbonate (20 ml) and dried (magnesium sulphate). Evaporation of the solvents under vacuum gave N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-6-(4-fluorophenyl)pyrazine-2-carboxamide (117 mg, 91%). NMR; δH [2H6]—DMSO 10:64,(1H, s), 9.52,(1H, s), 9.20,(1H, s), 8.63,(1H, t), 8.54,(2H, m), 7.95,(2H, d), 7.88,(1H, dd), 7.78,(1H, d), 7.48,(2H, d), 7.42,(2H, t), 7.35,(1H, d), 3.17,(2H, t), 2.23,(3H, s), 1.05,(1H, m), 0.24,(2H, m). LCMS: retention time 3.65 min, MH+481.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl4-carboxamide | 0.27 mmol, 75 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 6-(4fluorophenyl)pyrazine-2-carboxylic acid | 0.27 mmol, 58.4 mg | FC1=CC=C(C=C1)C1=CN=CC(=N1)C(=O)O | C11H7FN2O2
reactant | HATU | 0.27 mmol, 101.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.27 mmol, 36 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.80 mmol, 140 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-6-(4-fluorophenyl)pyrazine-2-carboxamide | 117 mg, 91% | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=NC(=CN=C1)C1=CC=C(C=C1)F | C29H25FN4O2
